US06699904B2
A solution of 3-[4-(2-{[(2,4-difluoro-phenyl)-acetyl]-heptyl-amino}-ethyl)-phenyl]-2-ethoxy-propionic acid methyl ester (35 mg, 0.07 mmol) and 1 M LiOH (0.208 mmol, 0.208 mL) in tetrahydrofuran (1 mL) was allowed to stir at room temperature for 78 hours. 2 N HCL was added until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to give 3-[4-(2-{[(2,4-difluoro-phenyl)-acetyl]-heptyl-amino}-ethyl)-phenyl]-2-ethoxy-propionic acid as a clear oil (28.6 mg, 84%).

reactant | 3-[4-(2-{[(2,4-difluoro-phenyl)-acetyl]-heptyl-amino}-ethyl)-phenyl]-2-ethoxy-propionic acid methyl ester | 0.07 mmol, 35 mg | COC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(CC1=C(C=C(C=C1)F)F)=O)OCC)=O | C29H39F2NO4
reactant | LiOH | 0.208 mmol, 1 M, 0.208 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-[4-(2-{[(2,4-difluoro-phenyl)-acetyl]-heptyl-amino}-ethyl)-phenyl]-2-ethoxy-propionic acid | 28.6 mg, 84% | FC1=C(C=CC(=C1)F)CC(=O)N(CCC1=CC=C(C=C1)CC(C(=O)O)OCC)CCCCCCC | C28H37F2NO4
